US08445509B2
Production of N-[6-(3-methyl-4-nitrophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide
To a solution of N-(6-hydroxyimidazo[1,2-a]pyridin-2-yl)cyclopropanecarboxamide (200 mg, 0.92 mmol) and 4-fluoro-2-methyl-1-nitrobenzene (171.3 mg, 1.1 mmol) in dimethyl sulfoxide (2 mL) was added cesium carbonate (450 mg, 1.38 mmol), and the mixture was stirred at room temperature for 6 hr. Ethyl acetate and saturated aqueous ammonium chloride solution were added to the reaction mixture, and the mixture was extracted 3 times with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure. The residue was washed with ethyl acetate and collected by filtration to give the title compound (232 mg, 72%) as a brown solid.

reactant | N-(6-hydroxyimidazo[1,2-a]pyridin-2-yl)cyclopropanecarboxamide | 0.92 mmol, 200 mg | OC=1C=CC=2N(C1)C=C(N2)NC(=O)C2CC2 | C11H11N3O2
reactant | 4-fluoro-2-methyl-1-nitrobenzene | 1.1 mmol, 171.3 mg | FC1=CC(=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | cesium carbonate | 1.38 mmol, 450 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethyl sulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[6-(3-methyl-4-nitrophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 232 mg, 72% | CC=1C=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=CC1[N+](=O)[O-] | C18H16N4O4
